US06339045B1
Production of N-(1-methoxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-88)
0.6 g (0.0015 mol) of N-(1-hydroxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide was dissolved in a mixed solvent of dichloromethane and DMF. The obtained solution was mixed with 0.064 g (ca. 60% in mineral oil; 0.0015×1.1 mol) of NaH and then with 0.42 g (0.0015×2.0 mol) of methyl iodide, followed by treating the solution under reflux for about 8 hours. The reaction solution was distributed in hexane-saturated sodium bicarbonate water and washed with saturated brine. The organic phase of the solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | N-(1-hydroxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | 0.0015 mol, 0.6 g | OC(C(F)(F)F)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C16H12F6N2O4
reactant | NaH | 1.1 mol, 0.064 g | [H-].[Na+]
reactant | methyl iodide | 2.0 mol, 0.42 g | CI | CH3I
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | N-(1-methoxy-2,2,2-trifluoroethyl)-4-methoxy-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | COC(C(F)(F)F)NC(=O)C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F | C17H14F6N2O4
